US08183275B2
5-(3,4-Difluorophenyl)-2-{2-[5-(2,2-dimethylbutyl)-1H-imidazol-2-yl]ethyl}-1,3-thiazole
Lawesson's reagent (50 mg, 0.12 mmol) was added to a solution of N-[2-(3,4-difluorophenyl)-2-oxoethyl]-3-[1-[(dimethylamino)sulfonyl]-4-(2,2-dimethylbutyl)-1H -imidazol-2-yl]propanamide (30 mg, 0.06 mmol) in dry toluene (4 mL) at rt. After stirring at reflux for 30 min, volatiles were removed. The resulting residue was dissolved in THF (0.5 mL), and 2M aqueous hydrochloric acid (1.5 mL) was added. After stirring at 80° C. overnight, the volatiles were removed. The aqueous phase was diluted with water and washed with 1:5 ethyl acetate/diethyl ether. The aqueous phase was basified with 1N sodium hydroxide and extracted with ethyl acetate. Combined extracts were washed with brine, dried (sodium sulfate) and concentrated to afford the title compound, which was dissolved in methylene chloride and acidified with 1M hydrogen chloride in diethyl ether. Additional diethyl ether and hexane were added, and concentration afforded the HCl salt of the title compound. LC-MS: m/e 376 (M+H).

reactant | Lawesson's reagent | 0.12 mmol, 50 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | N-[2-(3,4-difluorophenyl)-2-oxoethyl]-3-[1-[(dimethylamino)sulfonyl]-4-(2,2-dimethylbutyl)-1H -imidazol-2-yl]propanamide | 0.06 mmol, 30 mg | FC=1C=C(C=CC1F)C(CNC(CCC=1N(C=C(N1)CC(CC)(C)C)S(=O)(=O)N(C)C)=O)=O | C22H30F2N4O4S
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(3,4-Difluorophenyl)-2-{2-[5-(2,2-dimethylbutyl)-1H-imidazol-2-yl]ethyl}-1,3-thiazole | FC=1C=C(C=CC1F)C1=CN=C(S1)CCC=1NC(=CN1)CC(CC)(C)C | C20H23F2N3S
